US08003649B2
HCl (4M in dioxan, 4.22 mL, 16.88 mmol) was added in one portion to a stirred suspension of tert-butyl 4-(6-chloropyridin-3-yl)-4-hydroxypiperidine-1-carboxylate (1.32 g, 4.22 mmol) in ethyl acetate (20 mL) at ambient temperature. The resulting mixture was stirred at 50° C. for 90 minutes then cooled to room temperature, diluted with ether (20 mL) and filtered. The filtered solid was washed with ether and dried then taken up in methanol, applied to an SCX column and eluted with methanol followed by 2M ammonia in methanol. Product-containing fractions were combined and evaporated then purified by flash silica chromatography, elution gradient 10 to 20% 2M ammonia in methanol in DCM. Pure fractions were evaporated to dryness to afford 4-(6-chloropyridin-3-yl)piperidin-4-ol (0.43 g, 48%) as a pale orange solid.

reactant | HCl | 16.88 mmol, 4M, 4.22 mL | Cl | ClH
reactant | tert-butyl 4-(6-chloropyridin-3-yl)-4-hydroxypiperidine-1-carboxylate | 4.22 mmol, 1.32 g | ClC1=CC=C(C=N1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C15H21ClN2O3
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | ether | 20 mL | CCOCC | C4H10O
product | 4-(6-chloropyridin-3-yl)piperidin-4-ol | 0.43 g, 48% | ClC1=CC=C(C=N1)C1(CCNCC1)O | C10H13ClN2O
